US06875781B2
N-[6-(5-chloro-2-methoxy-phenyl)-4-p-tolylamino-pyridin-2-yl]-acetamide
A mixture of [2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl]-p-tolyl-amine (60 mg, 0.167 mmol) prepared according to Example 1, copper powder (100 mg, 1.54 mmol) and acetamide (2.0 g, 33.9 mmol) was heated at 180° C. for 3 hours. The mixture was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:1 followed by 3:2) to provide title compound (15 mg, 23% yield). 1H NMR (acetone-d6) δ 2.19 (s, 3H, CH3), 2.32 (s, 3H, CH3), 3.91 (s, 3H, CH3), 7.12 (d, 1H, J=8.8 Hz, Ar), 7.19-7.25 (m, 4H, Ar), 7.35 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.47-7.48 (m, 1H, Ar), 7.86 (s, 1H, NH), 7.89 (d, 1H, J=2.8 Hz, Ar), 8.05 (s, 1H, NH).

reactant | [2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl]-p-tolyl-amine | 0.167 mmol, 60 mg | ClC1=NC(=CC(=C1)NC1=CC=C(C=C1)C)C1=C(C=CC(=C1)Cl)OC | C19H16Cl2N2O
reactant | acetamide | 33.9 mmol, 2.0 g | C(C)(=O)N | C2H5NO
catalyst | copper | 1.54 mmol, 100 mg | [Cu] | Cu
product | N-[6-(5-chloro-2-methoxy-phenyl)-4-p-tolylamino-pyridin-2-yl]-acetamide | 15 mg, 23% yield | ClC=1C=CC(=C(C1)C1=CC(=CC(=N1)NC(C)=O)NC1=CC=C(C=C1)C)OC | C21H20ClN3O2
